US06320050B1
A solution of 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid (1.33 g, 4.18 mmol) in methanol (10 mL) was treated slowly with 4 drops of concentrated sulfuric acid. The resulting reaction mixture was heated under reflux for 36 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove methanol. The residue was diluted with ethyl acetate (200 mL). The organic phase was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL), washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 97/3 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid methyl ester (1.37 g, 99%) as a light yellow oil: EI-HRMS m/e calcd for C16H19F3O2S (M+) 332.1058, found 332.1052.

reactant | 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid | 4.18 mmol, 1.33 g | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)SC(F)(F)F | C15H17F3O2S
reactant | methanol | 10 mL | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
product | 3-cyclopentyl-2-(4-trifluoromethylsulfanyl-phenyl)propionic acid methyl ester | 1.37 g, 99% | COC(C(CC1CCCC1)C1=CC=C(C=C1)SC(F)(F)F)=O | C16H19F3O2S
